* Extracted Netlist
.include TSMC_180nm.txt
.param SUPPLY=1.8
.global gnd vdd

* Supply
Vdd vdd gnd 'SUPPLY'

* SPICE3 file created from Bigger_NOR.ext - technology: scmos

.option scale=0.09u

M1000 out_NOR in_2_NOR gnd Gnd CMOSN w=40 l=2
+  ad=320 pd=96 as=400 ps=180
M1001 out_NOR in_1_NOR a_60_48# w_47_42# CMOSP w=80 l=2
+  ad=400 pd=170 as=640 ps=176
M1002 gnd in_1_NOR out_NOR Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1003 a_60_48# in_2_NOR vdd w_47_42# CMOSP w=80 l=2
+  ad=0 pd=0 as=400 ps=170
C0 in_2_NOR w_47_42# 0.06fF
C1 in_1_NOR gnd 0.02fF
C2 in_1_NOR in_2_NOR 0.18fF
C3 out_NOR w_47_42# 0.02fF
C4 in_1_NOR out_NOR 0.19fF
C5 in_2_NOR gnd 0.02fF
C6 vdd w_47_42# 0.02fF
C7 in_2_NOR out_NOR 0.03fF
C8 in_1_NOR w_47_42# 0.06fF
C9 gnd Gnd 0.06fF
C10 out_NOR Gnd 0.04fF
C11 vdd Gnd 0.01fF
C12 in_1_NOR Gnd 0.16fF
C13 in_2_NOR Gnd 0.15fF
C14 w_47_42# Gnd 3.14fF

VD1 in_1_NOR gnd pulse 0 SUPPLY 0 50p 50p 1ns 2ns
VD2 in_2_NOR gnd pulse 0 SUPPLY 0 50p 50p 1.25ns 2.5ns

.tran 1ps 5ns

.control

run
set hcopypscolor = 1
set color0 = white
set color1 = black
set curplottitle = "Siddarth Gottumukkula 2023102040"
set xbrushwidth = 3


let in1 = 'in_1_NOR + 4'
let in2 = 'in_2_NOR + 2'
let output = 'out_NOR'
plot in1 in2 output

.endc

.end