.include TSMC_180nm.txt
.param SUPPLY=1.8
.global gnd vdd

* Supply
Vdd vdd gnd 'SUPPLY'

* SPICE3 file created from Inverter.ext - technology: scmos

.option scale=0.09u

M1000 Inverter_Out Inverter_In gnd Gnd CMOSN w=11 l=2
+  ad=55 pd=32 as=55 ps=32
M1001 Inverter_Out Inverter_In vdd w_0_0# CMOSP w=22 l=2
+  ad=110 pd=54 as=110 ps=54
C0 Inverter_Out w_0_0# 0.02fF
C1 Inverter_Out Inverter_In 0.04fF
C2 w_0_0# vdd 0.02fF
C3 w_0_0# Inverter_In 0.06fF
C4 gnd Gnd 0.01fF
C5 Inverter_Out Gnd 0.02fF
C6 vdd Gnd 0.01fF
C7 Inverter_In Gnd 0.10fF
C8 w_0_0# Gnd 0.82fF

VD Inverter_In gnd pulse 0 SUPPLY 0 50p 50p 1.25ns 2.5ns

.tran 1ps 5ns

.control

run
set hcopypscolor = 1
set color0 = white
set color1 = black
set curplottitle = "Siddarth Gottumukkula 2023102040"
set xbrushwidth = 3

let input = 'Inverter_In + 2'
let output = 'Inverter_Out'
plot input output

.endc

.end