NGSPICE Netlist for the XOR Gate

.include "TSMC_180nm.txt"
.param SUPPLY = 1.8
.param LAMBDA = 0.09u
.param width_N = {20 * LAMBDA} ; Vary the width (1)
.param width_P = {2 * width_N} ; Assuming ratio of mobilites is 2, change it (2)
.global gnd vdd

.subckt Inverter in out high low
    M1 high in out high CMOSP W={width_P} L={2*LAMBDA}
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
    M2 out in low low CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends Inverter

* Changed widths to make the circuit faster, half the size
.subckt XOR_Gate A A_not B out high low

    * Inverter logic - Careful with the body nodes
    M3 A B out high CMOSP W={0.5*width_P} L={2*LAMBDA}
    + AS={5*0.5*width_P*LAMBDA} PS={10*LAMBDA+2*0.5*width_P} AD={5*0.5*width_P*LAMBDA} PD={10*LAMBDA+2*0.5*width_P}
    M4 out B A_not low CMOSN W={0.5*width_N} L={2*LAMBDA}
    + AS={5*0.5*width_N*LAMBDA} PS={10*LAMBDA+2*0.5*width_N} AD={5*0.5*width_N*LAMBDA} PD={10*LAMBDA+2*0.5*width_N}

    * Analog Transmission gate
    M1 out A B high CMOSP W={0.5*width_P} L={2*LAMBDA}
    + AS={5*0.5*width_P*LAMBDA} PS={10*LAMBDA+2*0.5*width_P} AD={5*0.5*width_P*LAMBDA} PD={10*LAMBDA+2*0.5*width_P}
    M2 out A_not B low CMOSN W={0.5*width_N} L={2*LAMBDA}
    + AS={5*0.5*width_N*LAMBDA} PS={10*LAMBDA+2*0.5*width_N} AD={5*0.5*width_N*LAMBDA} PD={10*LAMBDA+2*0.5*width_N}

.ends XOR_Gate

VDD vdd gnd 'SUPPLY'
VA A gnd pulse 0 'SUPPLY' 0 1p 1p 1.5ns 3ns
VB B gnd pulse 0 'SUPPLY' 0 1p 1p 2.5ns 5ns

* VA A gnd 'SUPPLY'
* VB B gnd 'SUPPLY'

XInv A A_not vdd gnd Inverter
XOR A A_not B out vdd gnd XOR_Gate

* XORVeduBhai out A B vdd gnd XORpass

.tran 10ps 16ns

.control

run
set hcopypscolor = 1
set color0 = white
set color1 = black
set curplottitle = "Siddarth Gottumukkula 2023102040"
set xbrushwidth = 3

let in_A_not = 'A_not + 6'
let in_A = 'A + 4'
let in_B = 'B + 2'
let out = 'out'

plot in_A in_B out in_A_not

.endc

.end