NGSPICE Netlist for a 2 Input NAND gate 

.include "TSMC_180nm.txt"
.param SUPPLY = 1.8
.param LAMBDA = 0.09u
.param width_N = {20 * LAMBDA} ; Vary the width (1)
.param width_P = {2 * width_N} ; Assuming ratio of mobilites is 2, change it (2)
.global gnd vdd

.subckt Inverter in out high low
    M1 high in out high CMOSP W={width_P} L={2*LAMBDA}
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
    M2 out in low low CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends Inverter

.subckt NAND_Gate A B out high low

    MPUN_01 high A out high CMOSP W={width_P} L={2*LAMBDA}
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

    MPUN_02 high B out high CMOSP W={width_P} L={2*LAMBDA}
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

    MPDN_01 out A NAND_PDN_Inter NAND_PDN_Inter CMOSN W={2*width_N} L={2*LAMBDA}
    + AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

    MPDN_02 NAND_PDN_Inter B low low CMOSN W={2*width_N} L={2*LAMBDA}
    + AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

.ends NAND_Gate

.subckt AND_Gate A B out high low

    XNAND A B out_inter vdd gnd NAND_Gate
    XInverter out_inter out vdd gnd Inverter

.ends AND_Gate

* vin in+ in- pulse VLow VHigh delay rise-time fall-time on-period time-period
VDD vdd gnd 'SUPPLY'
VA A gnd pulse 0 'SUPPLY' 0 1p 1p 1.5ns 3ns
VB B gnd pulse 0 'SUPPLY' 0 1p 1p 2.5ns 5ns

XAND A B out vdd gnd AND_Gate

.tran 10ps 16ns

.control

run
set hcopypscolor = 1
set color0 = white
set color1 = black
set curplottitle = "Siddarth Gottumukkula 2023102040"
set xbrushwidth = 3

let in_A = 'A + 4'
let in_B = 'B + 2'
let output = 'out'

plot in_A in_B output

.endc

.end