.subckt HighLevelLatchElement in out clk high low
    M1 high in out high CMOSP W={width_P} L={2*LAMBDA}
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
    M2 out clk inter inter CMOSN W={2*width_N} L={2*LAMBDA} ; Reduced the effect of Body effect
    + AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}
    M3 inter in low low CMOSN W={2*width_N} L={2*LAMBDA}
    + AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}
.ends HighLevelLatchElement

.subckt TSPC_Latch_HighLevel in out clk high low
    XMaster in inter clk high low HighLevelLatchElement
    XSlave inter out clk high low HighLevelLatchElement
.ends TSPC_Latch_HighLevel

* Equate path resistances in sizing to inverter
.subckt LowLevelLatchElement in out clk high low
    M1 high in inter high CMOSP W={2*width_P} L={2*LAMBDA}
    + AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}
    M2 inter clk out inter CMOSP W={2*width_P} L={2*LAMBDA} ; Reduced the effect of Body effect
    + AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}
    M3 out in low low CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends LowLevelLatchElement

.subckt TSPC_Latch_LowLevel in out clk high low
    XMaster in inter clk high low LowLevelLatchElement
    XSlave inter out clk high low LowLevelLatchElement
.ends TSPC_Latch_LowLevel

* Repeater Tradeoff - Rise and Fall times vs C to Q delay
.subckt TSPC_FF in out clk high low
    XMaster in inter1 clk high low TSPC_Latch_LowLevel
    XInverter1 inter1 inter vdd gnd Inverter
    XSlave inter inter2 clk high low TSPC_Latch_HighLevel
    XInverter2 inter2 out vdd gnd Inverter
.ends TSPC_FF